US09388161B2
A 100-mL round-bottom flask was charged with tert-butyl 4-(1H-imidazol-2-yl)piperidine-1-carboxylate (0.300 g, 1.19 mmol) and tetrahydrofuran (10 mL), and the solution was cooled to −78. N-Bromosuccinimide (0.185 g, 1.04 mmol) was added, and the resulting solution stirred at −78° C. for 2 h. The reaction mixture was poured into water (10 mL) and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine (10 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 2:1, ethyl acetate/petroleum ether) to afford tert-butyl 4-(4-bromo-1H-imidazol-2-yl)piperidine-1-carboxylate (0.26 g, 66%) as a white solid. MS (ESI, pos. ion) m/z 330, 332 [M+H]+.

reactant | tert-butyl 4-(1H-imidazol-2-yl)piperidine-1-carboxylate | 1.19 mmol, 0.300 g | N1C(=NC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21N3O2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | N-Bromosuccinimide | 1.04 mmol, 0.185 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | 10 mL | O | H2O
product | tert-butyl 4-(4-bromo-1H-imidazol-2-yl)piperidine-1-carboxylate | 0.26 g, 66% | BrC=1N=C(NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H20BrN3O2
